US09353107B2
Step-iii: 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(4-isopropylpiperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-iii of example-1, 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(4-isopropylpiperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (79 mg, 0.121 mmol) was hydrolyzed by lithium hydroxide (55 mg, 1.21 mmol), THF/Methanol/water (15/5/5 ml) to yield 8 mg (13.3% yield) of the titled compound. 1H NMR (CDCl3, 300 MHz): δ 9.0 (b, 1H), 8.55 (s, 1H), 8.15 (s, 1H), 7.88 (s, 1H), 7.7 (s, 1H), 7.46-7.3 (m, 3H), 7.2-6.9 (m, 3H), 5.389 (s, 2H), 3.4 (m, 4H), 2.7 (m, 4H), 1.4-1.0 (m, 7H). MS: m/z=495.4 (M+1); HPLC: 89.22% in method B.

reactant | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(4-isopropylpiperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.121 mmol, 79 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=CC=C3)N3CCN(CC3)C(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C37H37FN6O2S
reactant | lithium hydroxide | 1.21 mmol, 55 mg | [OH-].[Li+]
solvent | THF Methanol water | 5 ml | C1CCOC1.CO.O
product | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(4-isopropylpiperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 8 mg, 13.3% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C3=CC(=CC=C3)N3CCN(CC3)C(C)C)C=CC1 | C30H31FN6
